US04888341
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(2-hydroxyethoxy)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (200 mg) in 10 ml of ethylene glycol was stirred at room temperature and under nitrogen for 45 minutes with 480 mg of a 1.6% solution of KOH in ethylene glycol. The reaction mixture was decomposed with excess dry ice while immersing the flask into a water bath at room temperature. The reaction mixture was chromatographed on a column packed with neutral alumina using CHCl3 -MeOH 8:2 as the solvent. This process separates the reaction products which are pink in color from ethylene glycol. The product from the pink fraction was rechromatographed on a silica gel plate with acetone to give two major bands. The product obtained from the second band was rechromatographed on a silica gel plate with a mixture of chloroform and methanol 9:1 to give the desired product. This procedure gave 64 mg (29%) of the desired product, having a melting point of 72°-74° C. (decomposition) and providing the following analysis:

reactant | mitomycin A | 200 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
solvent | ethylene glycol | 10 ml | C(CO)O | C2H6O2
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-(2-hydroxyethoxy)-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OCCO)C)=O)CC1C2N1)OC | InChI=1S/C16H20N2O6.CH3NO2/c1-7-12(21)11-10(13(22)14(7)24-4-3-19)8(6-20)16(23-2)15-9(17-15)5-18(11)16;2-1(3)4/h8-9,15,17,19-20H,3-6H2,1-2H3;2H2,(H,3,4)
